US05300716
Into a 1 l vessel, there were charged 19.2 g of magnesium chips (0.8 mole) into 550 ml of tetrahydrofuran (THF) under nitrogen. To this mixture, there were added dropwise 84 g (0.77 mole) of ethyl bromide so as to maintain the THF in reflux. Once the ethyl magnesium bromide had been formed, 62.4 g (0.65 mole) of 1-heptyne were added dropwise at 10°, over 10 min, and the mixture was heated to 60° for 45 min. After cooling to 10°, 1.93 g (19.5 mmole) of CuCl were added thereto and the mixture was left at rest for 15 min. 138 G (0.65 mole) of propargyl p-toluenesulfonate were then added over 20 min to the reaction mixture maintained at 0°. The latter was left at rest for 30 min while surveying that the temperature did not rise above 5°. It was then heated to 15° to complete the reaction. The reaction mixture was hydrolyzed with 100 ml of water and the aqueous phase was separated and extracted with two fractions of 80 ml THF each. The combined organic extracts were then washed with an aqueous solution saturated with NaCl, two fractions of 50 ml each of a 5% aqueous solution of KCN and was then dried over Na2SO4. After filtration and evaporation, a concentrated solution of deca-1,4-diyne in THF was obtained, which was used in the following reaction step.

reactant | 1-heptyne | 0.65 mole, 62.4 g | C#CCCCCC | C7H12
reactant | propargyl p-toluenesulfonate | 0.65 mole | C1(=CC=C(C=C1)S(=O)(=O)OCC#C)C | C10H10O3S
catalyst | CuCl | 19.5 mmole, 1.93 g | Cl[Cu]
solvent | water | 100 ml | O | H2O
product | deca-1,4-diyne | C#CCC#CCCCCC | C10H14
